US07632838B2
A mixture of tert-butyl piperazine-1-carboxylate 1.04 g, (5.6 mmol), 2-bromo-5-fluoro benzotrifluoride (1.21 g, 5.0 mmol), tris(dibenzylidineacetone)dipalladium (0) (45.8 mg, 0.05 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (93.4 mg, 0.15 mmol) and sodium tert-butoxide (600 mg, 6.25 mmol) were charged to a microwave vial. Toluene (10.0 mL) was introduced under nitrogen atmosphere and the reaction mixture was irradiated at 110° C. for 30 minutes. Reaction was complete as determined by TLC. The reaction was repeated four times. Reaction mixtures were combined, diluted with ethylacetate, washed with water, saturated brine then dried over MgSO4 and concentrated. The crude product was purified via flash column chromatography to yield tert-butyl-4-(4-fluoro-2-(trifluoromethyl)phenyl)piperazine-1-carboxylate in quantitative yield (6.8 g) as yellow oil.

reactant | tert-butyl piperazine-1-carboxylate | 5.6 mmol, 1.04 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-bromo-5-fluoro benzotrifluoride | 5.0 mmol, 1.21 g | BrC1=C(C=C(C=C1)F)C(F)(F)F | C7H3BrF4
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.15 mmol, 93.4 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 6.25 mmol, 600 mg | CC(C)([O-])C.[Na+]
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | Toluene | 10.0 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl-4-(4-fluoro-2-(trifluoromethyl)phenyl)piperazine-1-carboxylate | quantitative yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)F)C(F)(F)F | C16H20F4N2O2
